US06727264B1
2-METHYL-N-(3-{1-[1-(2-PHENYL-1,3-THIAZOL-4-YL)ETHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 1-(2-phenyl-1,3-thiazol-4-yl)ethanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 434.2 (M+H)+.

reactant | 1-(2-phenyl-1,3-thiazol-4-yl)ethanone | C1(=CC=CC=C1)C=1SC=C(N1)C(C)=O | C11H9NOS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[1-(2-PHENYL-1,3-THIAZOL-4-YL)ETHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)C(C)C=1N=C(SC1)C1=CC=CC=C1)C | C26H31N3OS
